* Z:\Tinbus\TinBus\sim\opto.sxsch
*#SIMETRIX
V1 V1_P 0 3.3
V2 V2_P V2_N 12
V3 R2_P 0 PULSE 0 7u 0 200n 200n 20u 100u
R1 V2_P 0 330
R2 R2_P R2_N 1k
R3 R3_P V2_P 1k
R6 0 R6_N 1.2k
R7 Q5_E Q1_E 18
Q10 V1_P G1_N Q10_E 0 BC548B
D1 R3_P D1_N D1N4148
R8 R8_P R3_P 10k
R9 D6_N 0 1.5k
D2 D3_N D2_N D1N4148
D3 Q2_C D3_N D1N4148
D4 V2_P D4_N D1N4148
X$D5 D5_P D1_N BZX84-4V7 pinnames: P N
D6 D2_N D6_N D1N4148
R17 Q10_E 0 1k
Q1 R6_N Q5_E Q1_E 0 BC548B
Q2 Q2_C R8_P D5_P 0 BC858C
Q5 0 R6_N Q5_E 0 BD139
G1 V1_P G1_N R2_N 0 1
E1 E1_P 0 R2_P 0 100k
Q7 V2_P Q10_E 0 0 BC548B
C1 R2_N 0 2.2n  
C2 D1_N 0 1u  
C3 D4_N 0 1u  
V$IPROBE1 Q1_E V2_N 0.0 
.GRAPH IPROBE1#p CurveLabel=IPROBE1
.GRAPH E1_P curveLabel="V3-pos" nowarn=true ylog=auto xlog=auto
.GRAPH D6_N curveLabel="D2-cathode" nowarn=true ylog=auto xlog=auto
.GRAPH V2_P curveLabel="Q9-collector" nowarn=true ylog=auto xlog=auto
.TRAN 200u

