* Z:\Tinbus\Tinbus\sim\tinbus-bi.sxsch
*#SIMETRIX
V1 V1_P 0 3.3
V2 V2_P V2_N 12
R1 V2_P 0 330
V3 R2_P 0 PULSE 0 7u 0 200n 200n 20u 100u
R2 R2_P R2_N 1k
R3 R3_P D11_N 1k
R4 D9_P D11_N 47k
R5 R5_P D5_N 47k
R6 0 R6_N 1.2k
D11 0 D11_N BAT54
R7 Q5_E Q1_E 18
R8 R5_P R3_P 47k
Q10 V1_P G1_N Q10_E 0 BC548B
D2 D3_N D2_N D1N4148
R9 D6_N D9_P 1.5k
D3 Q2_C D3_N D1N4148
D4 V2_P D4_N D1N4148
D5 R3_P D5_N BAT54
D6 D2_N D6_N D1N4148
D7 V2_P D11_N BAT54
D8 D9_P V2_P BAT54
D9 D9_P 0 BAT54
R17 Q10_E 0 1k
Q1 R6_N Q5_E Q1_E 0 BC548B
Q2 Q2_C R5_P D5_N 0 BC858C
Q5 0 R6_N Q5_E 0 BD139
G1 V1_P G1_N R2_N 0 1
Q7 V2_P Q10_E 0 0 BC548B
E1 E1_P 0 R2_P 0 100k
C1 R2_N 0 2.2n  
C2 D5_N D9_P 1u  
C3 D4_N 0 1u  
V$IPROBE1 Q1_E V2_N 0.0 
.GRAPH IPROBE1#p CurveLabel=IPROBE1
.GRAPH E1_P curveLabel="V3-pos" nowarn=true ylog=auto xlog=auto
.GRAPH R9#P curveLabel="I(R9-P)" nowarn=true
E$Probe3$TP_DIFFPRB 1 0 D5_N D9_P 1 
.graph 1 Curvelabel = "Diff Probe" nowarn=true yunit="V"
.GRAPH V2_P curveLabel="Q9-collector" nowarn=true ylog=auto xlog=auto
.TRAN 200u

